### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/FiniteDimensional): relax condition of results regarding subalgebra = bot

### PR DESCRIPTION
**Pull request by acmepjz**
... from requiring `F` being a field to `F` satisfying `StrongRankCondition` and `S` being a free `F`-module. This makes the original statement a special case.

The changed results are: `Subalgebra.eq_bot_of_(rank_le|finrank)_one`, `Subalgebra.[fin]rank_eq_one_iff` and `Subalgebra.bot_eq_top_iff_[fin]rank_eq_one`.

Since the generalized results don't requiring division ring anymore, they are moved to an eariler file `LinearAlgebra/Dimension/FreeAndStrongRankCondition`.

The proof need to use a new result `bijective_algebraMap_of_linearEquiv` which is put into `Algebra/Algebra/Basic`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

discussion: <https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.2312849.20relax.20condition.20of.20Subalgebra.2Eeq_bot_of_finrank_one>

### CODE REVIEW

**Comment by acmepjz** [comment]
Seems that a lot of result in this file can be relaxed by the same way. Maybe I'll investigate them later.

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 1]
```diff
@@ -1179,11 +1179,13 @@ theorem Subalgebra.eq_bot_of_rank_le_one {S : Subalgebra F E} (h : Module.rank F
   exact h.trans_eq Subalgebra.rank_bot.symm
 #align subalgebra.eq_bot_of_rank_le_one Subalgebra.eq_bot_of_rank_le_one
 
-theorem Subalgebra.eq_bot_of_finrank_one {S : Subalgebra F E} (h : finrank F S = 1) : S = ⊥ :=
-  Subalgebra.eq_bot_of_rank_le_one <| by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean:1183]: Can you generalize the proof of `Subalgebra.eq_bot_of_rank_le_one` instead?

Comment (acmepjz) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean:1183]: Let me see.

Comment (acmepjz) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean:1183]: I suspect that starting from `finrank_eq_one_iff` the conditon can be relaxed. Let me try.

Comment (acmepjz) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean:1182]: Done.

**Comment by acmepjz** [comment]
Since #12963 is merged, is it a good idea to move the results in this PR to that file?

File: Mathlib/Algebra/Algebra/Bilinear.lean [hunk 2]
```diff
@@ -273,3 +273,23 @@ theorem mul_injective [NoZeroDivisors A] {x : A} (hx : x ≠ 0) : Function.Injec
...
+  replace h : b 1 = (algebraMap F E) (b.symm (b 1 * b 1)) := by
+    apply_fun b at h
+    rwa [b.apply_symm_apply, b.apply_symm_apply, mul_one, mul_comm (b.symm 1),
+      ← smul_eq_mul, map_smul, b.apply_symm_apply, Algebra.smul_def, mul_one] at h
+  refine Function.bijective_iff_has_inverse.2 ⟨fun y ↦ b.symm y * b.symm (b 1 * b 1),
+    fun x ↦ b.injective ?_, fun y ↦ ?_⟩
+  · dsimp only; rw [mul_comm, ← smul_eq_mul, map_smul, Algebra.smul_def, ← h, b.apply_symm_apply,
+      ← Algebra.commutes x (b 1), ← Algebra.smul_def, ← map_smul, smul_eq_mul, mul_one]
+  · dsimp only; rw [_root_.map_mul, ← h, ← Algebra.smul_def, ← map_smul, smul_eq_mul, mul_one,
+      b.apply_symm_apply]
```
Comment (erdOne) [inline Mathlib/Algebra/Algebra/Bilinear.lean:295]: I don't think this belongs here. Either

```
/-- If `E` is an `F`-algebra which is also a free `F`-module of rank one,
then the algebra map from `F` to `E` is an isomorphism. -/
theorem bijective_algebraMap_of_linearEquiv
    {F E : Type*} [CommSemiring F] [Semiring E] [Algebra F E]
    (b : F ≃ₗ[F] E) : Function.Bijective (algebraMap F E) := by
  have h : b 1 = (algebraMap F E) (b.symm (b 1 * b 1)) := by
    apply b.symm.injective
    rw [Algebra.algebraMap_eq_smul_one, map_smul, b.symm_apply_apply, smul_eq_mul,
      mul_comm, ← smul_eq_mul, ← map_smul, ← smul_mul_assoc, ← map_smul, smul_eq_mul, mul_one,
      b.apply_symm_apply, one_mul, b.symm_apply_apply]
  refine Function.bijective_iff_has_inverse.2 ⟨fun y ↦ b.symm y * b.symm (b 1 * b 1),
    fun x ↦ b.injective ?_, fun y ↦ ?_⟩
  · dsimp only; rw [mul_comm, ← smul_eq_mul, map_smul, Algebra.smul_def, ← h, b.apply_symm_apply,
      ← Algebra.commutes x (b 1), ← Algebra.smul_def, ← map_smul, smul_eq_mul, mul_one]
  · dsimp only; rw [_root_.map_mul, ← h, ← Algebra.smul_def, ← map_smul, smul_eq_mul, mul_one,
      b.apply_symm_apply]
```
That only uses the definition of `Algebra` and `LinearEquiv`, or even 
```

variable {F E : Type*} [CommSemiring F] [Semiring E] [Algebra F E] (b : F →ₗ[F] E)

lemma injective_algebraMap_of_linearMap (hb : Function.Injective b) :
    Function.Injective (algebraMap F E) := fun x y e ↦ hb <| by
  rw [← mul_one x, ← mul_one y, ← smul_eq_mul, ← smul_eq_mul,
      map_smul, map_smul, Algebra.smul_def, Algebra.smul_def, e]

lemma surjective_algebraMap_of_linearMap (hb : Function.Surjective b) :
    Function.Surjective (algebraMap F E) := by
  intro x
  obtain ⟨x, rfl⟩ := hb x
  obtain ⟨y, hy⟩ := hb (b 1 * b 1)
  refine ⟨x * y, ?_⟩
  obtain ⟨z, hz⟩ := hb 1
  apply_fun (x • z • ·) at hy
  rwa [← map_smul, smul_eq_mul, mul_comm, ← smul_mul_assoc, ← map_smul _ z, smul_eq_mul, mul_one,
    ← smul_eq_mul, map_smul, hz, one_mul, ← map_smul, smul_eq_mul, mul_one, smul_smul,
      ← Algebra.algebraMap_eq_smul_one] at hy

lemma bijective_algebraMap_of_linearMap (hb : Function.Bijective b) :
    Function.Bijective (algebraMap F E) :=
  ⟨injective_algebraMap_of_linearMap b hb.1, surjective_algebraMap_of_linearMap b hb.2⟩
```
That can go somewhere even earlier.

Comment (acmepjz) [reply Mathlib/Algebra/Algebra/Bilinear.lean:295]: Let me see.

Comment (acmepjz) [reply Mathlib/Algebra/Algebra/Bilinear.lean:295]: `#find_home` suggests `Mathlib.Algebra.Algebra.Defs`. But is it a good idea to put them into such a definition file?
Or it's better to put them into `Mathlib.Algebra.Algebra.Basic` where `LinearEquiv` is imported.

Comment (riccardobrasca) [reply Mathlib/Algebra/Algebra/Bilinear.lean:295]: Can you also fix the docstring? The actual statement does not mention free modules.

File: Mathlib/LinearAlgebra/Dimension/FreeAndStrongRankCondition.lean [hunk 3]
```diff
@@ -244,3 +244,77 @@ theorem cardinal_lt_aleph0_of_finiteDimensional (K V : Type u) [Ring K] [StrongR
   rw [cardinal_mk_eq_cardinal_mk_field_pow_rank K V]
   exact Cardinal.power_lt_aleph0 (Cardinal.lt_aleph0_of_finite K) (rank_lt_aleph0 K V)
 #align cardinal_lt_aleph_0_of_finite_dimensional cardinal_lt_aleph0_of_finiteDimensional
+
+theorem Subalgebra.eq_bot_of_rank_le_one
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Dimension/FreeAndStrongRankCondition.lean:248]: Can you declare `F` and `E` only once? Or maybe using the variables already in scope.

File: Mathlib/Algebra/Algebra/Bilinear.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/Algebra/Algebra/Bilinear.lean:295]: The latter does not need `LinearEquiv`. I was thinking maybe `Mathlib/Algebra/Algebra/Basic.lean`.

Comment (acmepjz) [reply Mathlib/Algebra/Algebra/Bilinear.lean:295]: > Can you also fix the docstring? The actual statement does not mention free modules.

Sure, will do later.

**Comment by erdOne** [comment]
Thanks!
maintainer merge

File: Mathlib/Algebra/Algebra/Basic.lean [hunk 4]
```diff
@@ -518,3 +518,45 @@ lemma IsUnit.algebraMap_of_algebraMap (f : A →ₗ[R] B) (hf : f 1 = 1) {r : R}
   isUnit_of_invertible _
 
 end invertibility
+
+section algebraMap
+
+variable {F E : Type*} [CommSemiring F] [Semiring E] [Algebra F E] (b : F →ₗ[F] E)
+
+/-- If `E` is an `F`-algebra, there exists an injective `F`-linear map from `F` to `E`,
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Algebra/Basic.lean:526]:
```suggestion
/-- If `E` is an `F`-algebra, and there exists an injective `F`-linear map from `F` to `E`,
```

File: Mathlib/Algebra/Algebra/Basic.lean [hunk 5]
```diff
@@ -518,3 +518,45 @@ lemma IsUnit.algebraMap_of_algebraMap (f : A →ₗ[R] B) (hf : f 1 = 1) {r : R}
...
+then the algebra map from `F` to `E` is also injective. -/
+theorem injective_algebraMap_of_linearMap (hb : Function.Injective b) :
+    Function.Injective (algebraMap F E) := fun x y e ↦ hb <| by
+  rw [← mul_one x, ← mul_one y, ← smul_eq_mul, ← smul_eq_mul,
+    map_smul, map_smul, Algebra.smul_def, Algebra.smul_def, e]
+
+/-- If `E` is an `F`-algebra, there exists a surjective `F`-linear map from `F` to `E`,
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Algebra/Basic.lean:533]:
```suggestion
/-- If `E` is an `F`-algebra, and there exists a surjective `F`-linear map from `F` to `E`,
```

File: Mathlib/Algebra/Algebra/Basic.lean [hunk 6]
```diff
@@ -518,3 +518,45 @@ lemma IsUnit.algebraMap_of_algebraMap (f : A →ₗ[R] B) (hf : f 1 = 1) {r : R}
...
+  obtain ⟨x, rfl⟩ := hb x
+  obtain ⟨y, hy⟩ := hb (b 1 * b 1)
+  refine ⟨x * y, ?_⟩
+  obtain ⟨z, hz⟩ := hb 1
+  apply_fun (x • z • ·) at hy
+  rwa [← map_smul, smul_eq_mul, mul_comm, ← smul_mul_assoc, ← map_smul _ z, smul_eq_mul, mul_one,
+    ← smul_eq_mul, map_smul, hz, one_mul, ← map_smul, smul_eq_mul, mul_one, smul_smul,
+    ← Algebra.algebraMap_eq_smul_one] at hy
+
+/-- If `E` is an `F`-algebra, there exists a bijective `F`-linear map from `F` to `E`,
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Algebra/Basic.lean:546]:
```suggestion
/-- If `E` is an `F`-algebra, and there exists a bijective `F`-linear map from `F` to `E`,
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+
